US08440665B2
To a solution of methyl 4-(4-fluoropicolinamido)thiophene-2-carboxylate (400 mg, 1.4 mmol) in butyronitrile (5 mL), was added 4-cyclopropyl imidazole (310 mg, 2.9 mmol), and caesium carbonate (840 mg, 2.6 mmol) and the reaction was heated to 105° C. for 2 hours. The reaction was filtered and the solids were washed with acetonitrile, methylene chloride, and the filtrate was evaporated under reduced pressure. The residue was suspended in acetonitrile, and the solids were collected by filtration to provide 384 mg (73%) of methyl 4-(4-(4-cyclopropyl-1H-imidazol-1-yl)picolinamido)thiophene-2-carboxylate. M+1=369.1

reactant | methyl 4-(4-fluoropicolinamido)thiophene-2-carboxylate | 1.4 mmol, 400 mg | FC1=CC(=NC=C1)C(=O)NC=1C=C(SC1)C(=O)OC | C12H9FN2O3S
reactant | 4-cyclopropyl imidazole | 2.9 mmol, 310 mg | C1(CC1)C=1N=CNC1 | C6H8N2
reactant | caesium carbonate | 2.6 mmol, 840 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | butyronitrile | 5 mL | C(CCC)#N | C4H7N
product | methyl 4-(4-(4-cyclopropyl-1H-imidazol-1-yl)picolinamido)thiophene-2-carboxylate | 384 mg, 73% | C1(CC1)C=1N=CN(C1)C1=CC(=NC=C1)C(=O)NC=1C=C(SC1)C(=O)OC | C18H16N4O3S
